US07875639B2
3-(3-methoxypropyl)-1,3-thiazol-2(3H )-imine hydrobromide
A mixture of 2-aminothiazole (1.0 g, 10 mmol) and 1-bromo-3-methoxypropane (1.8 g, 12 mmol, commercially available from Aldrich) were heated at 85° C. for 16 hours. The solid was cooled to ambient temperature, triturated with ethanol, and then collected by filtration to afford 1.2 g (48%) of the title compound. MS (DCI/NH3) m/z 173 (M+H)+.

reactant | 2-aminothiazole | 10 mmol, 1.0 g | NC=1SC=CN1 | C3H4N2S
reactant | 1-bromo-3-methoxypropane | BrCCCOC | C4H9BrO
product | 3-(3-methoxypropyl)-1,3-thiazol-2(3H )-imine hydrobromide | 1.2 g, 48% | Br.COCCCN1C(SC=C1)=N | InChI=1S/C7H12N2OS.BrH/c1-10-5-2-3-9-4-6-11-7(9)8;/h4,6,8H,2-3,5H2,1H3;1H
